US05648354
3-(Hydroxymethyl)-6-[(2-fluorophenyloxy)methyl]-1,2-dithiin.
To a stirred solution of the 3-[(tert-butyldimethyl-silyloxy)methyl]-6-[(2fluoromethylphenyloxy)methyl]-1,2-dithiin obtained above (250 mg, 0.65 mmol) in 5 mL THF was added a mixture of 3.0 mL of 1M tetrabutylammonium fluoride in THF and 2.0 mL of acetic acid. The reation mixture was stirred for 5 h until TLC analysis showed the reaction to be complete, then concentrated in vacuo. The residue was partitioned between 20 mL of water and 20 mL ethyl acetate. The organic phase was washed with 3% solution of aqueous sodium bicarbonate (50 mL), water, dried over sodium sulfate, and then concentrated to a small volume. The residue was purified by silica gel chromatography (ethyl acetate-hexane, 1:3) to yield 120 mg (68%) of the title compound; 1H NMR (CDCl3):δ7.12-6.9 (m, 4 H), 6.47 (d, J=6.0, 1 H), 6.39 (d, J=6.0, 1 H), 4.74 (s, 2 H), 4.28 (s, 2 H); MS (EI) 270.1 (M+).

reactant | 3-[(tert-butyldimethyl-silyloxy)methyl]-6-[(2fluoromethylphenyloxy)methyl]-1,2-dithiin | C(C)(C)(C)[Si](OCC=1SSC(=CC1)COC1=C(C=CC=C1)CF)(C)C | C19H27FO2S2Si
reactant | tetrabutylammonium fluoride | 1M, 3.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 2.0 mL | C(C)(=O)O | C2H4O2
product | 3-(Hydroxymethyl)-6-[(2-fluorophenyloxy)methyl]-1,2-dithiin | 120 mg, 68% | OCC=1SSC(=CC1)COC1=C(C=CC=C1)F | C12H11FO2S2
